US09212190B2
Into a 50-mL round-bottom flask containing a solution of tert-butyl N-(4-[[(3R)-3-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate (570 mg, 0.99 mmol, 1.00 equiv) in THF (6 mL) was added TBAF (522 mg, 2.00 mmol, 2.02 equiv) and the resulting solution was stirred for 2 hrs at 25° C. The reaction mixture was concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:2) to provide the desired tert-butyl N-ethyl-N-(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (450 mg, 98%) as a colorless oil. MS (ES): m/z 462 [M+H]+.

reactant | tert-butyl N-(4-[[(3R)-3-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)-N-ethylcarbamate | 0.99 mmol, 570 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@@H]1C=2C=3C(=NC=NC3SC2CC1)OC1CCC(CC1)N(C(OC(C)(C)C)=O)CC | C30H49N3O4SSi
reactant | TBAF | 2.00 mmol, 522 mg, 2.02 equiv | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | tert-butyl N-ethyl-N-(4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 450 mg, 98% | C(C)N(C(OC(C)(C)C)=O)C1CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO | C24H35N3O4S
